US05455356
In the same apparatus and procedures as Example 1-i) were reacted 6.2 g of 1,5-dichloropentane (0.044 mol) and 2.8 g of magnesium species (0.11 mol), and then followed by coupling with 5.6 g (0.03 mol) of (chloromethyl)dichloro (4-fluorophenyl)silane prepared from the above procedure i) to give 3.5 g of 1-(chloromethyl)-1-(4-fluorophenyl)-1-silacyclohexane (74° C./0.2 mmHg).

reactant | 1,5-dichloropentane | 0.044 mol, 6.2 g | ClCCCCCCl | C5H10Cl2
reactant | magnesium | 2.8 g | [Mg] | Mg
reactant | (chloromethyl)dichloro (4-fluorophenyl)silane | 0.03 mol, 5.6 g | ClC[Si](C1=CC=C(C=C1)F)(Cl)Cl | C7H6Cl3FSi
product | 1-(chloromethyl)-1-(4-fluorophenyl)-1-silacyclohexane | 3.5 g | ClC[Si]1(CCCCC1)C1=CC=C(C=C1)F | C12H16ClFSi
